US09120781B2
A mixture of (3aR,4S,5S,6S,7aR)-4,5-bis(benzyloxy)-6-((benzyloxy)methyl)hexahydrobenzo[d]oxazol-2(3H)-one (400 mg, 0.85 mmol) and 4 Å MS (500 mg) in DCM (10 mL) was treated with trimethyloxonium tetrafluoroborate (650 mg, 4.39 mmol) for 16 h at room temperature, and followed by addition of propan-1-amine (3 mL) After stirred for additional 16 h at room temperature, the reaction mixture was poured into satd. aqueous NaHCO3 (50 mL), extracted with EtOAc (3×100 mL), washed with brine (30 mL), dried over anhydrous MgSO4, and concentrated under vacuum to give a residue, which was purified by a silica gel column, eluted with 3% MeOH and 1% ammonia (conc.) in EtOAc to give (3aR,4S,5S,6S,7aR)-4,5-bis(benzyloxy)-6-(benzyloxymethyl)-N-propyl-3a,4,5,6,7,7a-hexahydrobenzo[d]oxazol-2-amine as yellow oil (300 mg, 69%). (ES, m/z) [M+H]+515.1; 1H NMR (300 MHz, CDCl3) δ 7.28-7.40 (m, 15H), 4.69-4.90 (m, 4H), 4.44-4.48 (m, 3H), 4.04-4.15 (m, 1H), 3.47-3.66 (m, 4H), 3.12-3.20 (m, 2H), 1.90-2.13 (m, 1H), 1.52-1.59 (m, 2H), 1.26-1.30 (m, 2H), 0.87-0.95 (t, J=7.2 Hz, 3H).

reactant | (3aR,4S,5S,6S,7aR)-4,5-bis(benzyloxy)-6-((benzyloxy)methyl)hexahydrobenzo[d]oxazol-2(3H)-one | 0.85 mmol, 400 mg | C(C1=CC=CC=C1)O[C@@H]1[C@H]([C@@H](C[C@@H]2[C@H]1NC(O2)=O)COCC2=CC=CC=C2)OCC2=CC=CC=C2 | C29H31NO5
reactant | trimethyloxonium tetrafluoroborate | 4.39 mmol, 650 mg | F[B-](F)(F)F.C[O+](C)C
reactant | propan-1-amine | 3 mL | C(CC)N | C3H9N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (3aR,4S,5S,6S,7aR)-4,5-bis(benzyloxy)-6-(benzyloxymethyl)-N-propyl-3a,4,5,6,7,7a-hexahydrobenzo[d]oxazol-2-amine | 300 mg, 69% | C(C1=CC=CC=C1)O[C@@H]1[C@H]([C@@H](C[C@@H]2[C@H]1N=C(O2)NCCC)COCC2=CC=CC=C2)OCC2=CC=CC=C2 | C32H38N2O4
